US07300907B2
Ammonia was bubbled through a solution of 2,5,6-trichloro-pyrimidine-4-carboxylic acid methyl ester (15.94 g, 66 mmol, see H. Gershon, J. Org. Chem. 1962, 27, 3507-3510 for preparation) in p-dioxane (150 mL) for 30 minutes. The solvent was then removed and the residue partitioned between ethyl acetate and water. The organic phase was dried and concentrated under vacuum. The product was purified by column chromatography to provide 6-amino-2,5-dichloropyrimidine-4-carboxylic acid methyl ester (12.74 g, 87% yield): mp 164-166° C.

reactant | Ammonia | N | H3N
reactant | 2,5,6-trichloro-pyrimidine-4-carboxylic acid methyl ester | 66 mmol, 15.94 g | COC(=O)C1=NC(=NC(=C1Cl)Cl)Cl | C6H3Cl3N2O2
solvent | p-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 6-amino-2,5-dichloropyrimidine-4-carboxylic acid methyl ester | 12.74 g, 87% yield | COC(=O)C1=NC(=NC(=C1Cl)N)Cl | C6H5Cl2N3O2
